US04489003
A mixture of 10.35 g (30 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 50 g of cycloheptanol and 2 g of tetraethyl orthotitanate is heated to 130° for 8 hours, evaporated in vacuo, the residue is taken up in chloroform and the solution obtained is poured into about 20 percent hydrochloric acid. The mixture is stirred for 15 minutes, the chloroform phase is separated, washed successively with 2N hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated. By crystallization from ethyl acetate/hexane there is obtained cycloheptyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 179°-180°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 30 mmol, 10.35 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | cycloheptanol | 50 g | C1(CCCCCC1)O | C7H14O
reactant | hydrochloric acid | Cl | ClH
catalyst | tetraethyl orthotitanate | 2 g | CCO.CCO.CCO.CCO.[Ti]
product | cycloheptyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCCC3)CCC1)=O | C22H24ClN3O3
